US08247403B2
(2) 4-benzyl-9-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one
To a solution of N-benzyl-3-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide (11.4 g, 32.4 mmol) in N,N-dimethylformamide (160 ml) was added under ice-cooling sodium hydride (60%, 1.68 g, 42.1 mmol), and the mixture was stirred under ice-cooling for 1 hr. The reaction mixture was poured into ice water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (8.08 g, 74.8%) as an oil.

reactant | N-benzyl-3-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide | 32.4 mmol, 11.4 g | C(C1=CC=CC=C1)N(C(C1=C(C(=CC=C1)Br)F)=O)CCO | C16H15BrFNO2
reactant | sodium hydride | 42.1 mmol, 1.68 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-9-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 8.08 g, 74.8% | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=CC=C2Br | C16H14BrNO2
